US07935722B2
N-(6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide
Add acetyl chloride (8.5 mL, 120 mmol) to absolute ethanol (30 mL) and stir for 1 h. Add 4-methoxyphenylhydrazine hydrochloride (1.74 g, 10 mmol) and N-(4-oxo-cyclohexyl)-isobutyramide (Preparation 2) (1.83 g, 120 mmol) and reflux with stirring for 56 h. Cool to room temperature, dilute with ethyl acetate (100 mL) and wash with sodium bicarbonate solution (2×50 mL), brine, dry (MgSO4), filter and concentrate in vacuo. Dissolve the residue in dichloromethane and pass over a silica pad, eluting with 20% ethyl acetate/dichloromethane to obtain 2.32 g of a solid. Triturate the solid in diethyl ether with a small amount of dichloromethane, filter and dry under house vacuum to obtain 2.14 g (75%) of an off-white solid. MS (ES): m/z 287 (M+1), 285 (M−1); 1H NMR(DMSO-d6): δ 10.52 (s, 1H), 7.83 (d, 1H, J=7.5 Hz), 7.13 (d, 1H, J=8.8 Hz), 6.85 (s, 1H), 6.64 (dd, 1H, J=8.8, 2.2 Hz), 4.02 (m, 1H), 3.75 (m, 3H), 2.90 (dd, 1H, J=15.0, 5.3 Hz), 2.78 (m, 2H), 2.42 (m, 2H), 1.96 (m, 1H), 1.79 (m, 1H), 1.03 (d, 6H, J=6.6 Hz).

reactant | acetyl chloride | 120 mmol, 8.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | 4-methoxyphenylhydrazine hydrochloride | 10 mmol, 1.74 g | Cl.COC1=CC=C(C=C1)NN
reactant | N-(4-oxo-cyclohexyl)-isobutyramide | 120 mmol, 1.83 g | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(6-methoxy-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | 2.32 g | COC=1C=C2C=3CC(CCC3NC2=CC1)NC(C(C)C)=O | C17H22N2O2
